US06255494B1
Preparation of 2,3-diaminophenol dihydrochloride salt
In a 250 ml single neck round bottom flask was added 2,3-diaminophenol (10 g, 80.55 mmol) to ethanol (100 ml). This mixture was heated to 50° C. to achieve dissolution. The resulting solution is cooled to −5 to 0° C. and an excess of anhydrous hydrogen chloride gas was added to form a viscous slurry. The resulting mixture was stirred for two hours at ˜0° C., then filtered, and rinsed with chilled methanol (30 ml). The solvents were removed in vacuo and the residue was dried overnight.

reactant | 2,3-diaminophenol | 80.55 mmol, 10 g | NC1=C(C=CC=C1N)O | C6H8N2O
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2,3-diaminophenol dihydrochloride salt | Cl.Cl.NC1=C(C=CC=C1N)O | InChI=1S/C6H8N2O.2ClH/c7-4-2-1-3-5(9)6(4)8;;/h1-3,9H,7-8H2;2*1H
